US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 13 by reaction of 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine with 1-(4-carbomethoxymethoxyphenyl)propan-2-one followed by purification of the base on a silica gel column using ethyl acetate/methanol=9:1 as eluant.

reactant | 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | OC(CN)C=1N=C(SC1)C | C6H10N2OS
reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C18H24N2O4S
